US03937837
Ethyl 3-carbamoyl-7-hydroxy-4-oxo-4H-1-benzopyran-2-carboxylate.
A mixture of 25.0 g (0.097 mol) of ethyl 3-cyano-7-hydroxy-4-oxo-4H-1-benzopyran-2-carboxylate in 230 ml conc. sulfuric acid was stirred at room temperature overnight. The mixture was then poured into 1.5 l of ice water with stirring. The resulting solid was filtered off, washed with water, and dried. 16.5 g (60%) mp > 320° C. from acetonitrile.

reactant | ethyl 3-cyano-7-hydroxy-4-oxo-4H-1-benzopyran-2-carboxylate | 0.097 mol, 25.0 g | C(#N)C1=C(OC2=C(C1=O)C=CC(=C2)O)C(=O)OCC | C13H9NO5
reactant | sulfuric acid | 230 ml | S(O)(O)(=O)=O | H2O4S
product | Ethyl 3-carbamoyl-7-hydroxy-4-oxo-4H-1-benzopyran-2-carboxylate | C(N)(=O)C1=C(OC2=C(C1=O)C=CC(=C2)O)C(=O)OCC | C13H11NO6
